US06248740B1
Production of 4-(diphenylmethoxy)-1-piperidinehexanol
1.00 g of 4-(diphenylmethoxy)piperidine was dissolved in 10 ml of N,N-dimethylformamide; 0.49 ml of 6-bromo-hexanol, 0.56 g of sodium iodide and 0.62 g of potassium carbonate were added, followed by stirring at 100° C. for 1 hour. Ice water was added, followed by extraction with ethyl ether; the extract was washed with saline and dried with magnesium sulfate. After the dry product was concentrated under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (90:10:1). The desired fraction was collected and concentrated to yield 1.24 g of the title compound.

reactant | 4-(diphenylmethoxy)piperidine | 1.00 g | C1(=CC=CC=C1)C(OC1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 6-bromo-hexanol | 0.49 ml | BrCCCCCCO | C6H13BrO
reactant | sodium iodide | 0.56 g | [I-].[Na+]
reactant | potassium carbonate | 0.62 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(diphenylmethoxy)-1-piperidinehexanol | 1.24 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCCCCO)C1=CC=CC=C1 | C24H33NO2
